### PR TITLE
[Merged by Bors] - feat: add rewriting lemmas for integers

### PR DESCRIPTION
**Pull request by miguelmarco**
This PR includes some equalities and equivalences about expressions with integer numbers.

They can be useful as rewriting lemmas to simplify expressions.

(See #8102 for motivation)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by Paul-Lez — COMMENTED** [review]
These lemmas certainly look very useful! I think it would be great to generalise them to other ordered rings (assuming the existence of a suitable division of course). 

`LinearOrderedRing` seems like it might be the right typeclass for this - what do you think @YaelDillies ?

**Comment by YaelDillies** [comment]
Integer division is quite specific to... integers. So there is no typeclass that would be suitable to generalise those lemmas (nor does it seem fit to do so)

File: Mathlib/Data/Int/Order/Lemmas.lean [hunk 1]
```diff
@@ -31,4 +31,38 @@ theorem natAbs_le_iff_mul_self_le {a b : ℤ} : a.natAbs ≤ b.natAbs ↔ a * a
   rw [← abs_le_iff_mul_self_le, abs_eq_natAbs, abs_eq_natAbs]
   exact Int.ofNat_le.symm
 
+theorem div_le_iff_of_dvd_of_pos (a b c : ℤ) (h1 :0 < b) (h2 : b ∣ a) : a / b ≤ c ↔ a ≤  b * c := by
+  obtain  ⟨_, hx⟩ := h2
```
[the remark this answers is not in the document]
Comment (miguelmarco) [reply Mathlib/Data/Int/Order/Lemmas.lean]: Done

File: Mathlib/Data/Int/Order/Lemmas.lean [hunk 2]
```diff
@@ -31,4 +31,38 @@ theorem natAbs_le_iff_mul_self_le {a b : ℤ} : a.natAbs ≤ b.natAbs ↔ a * a
   rw [← abs_le_iff_mul_self_le, abs_eq_natAbs, abs_eq_natAbs]
   exact Int.ofNat_le.symm
 
+theorem div_le_iff_of_dvd_of_pos (a b c : ℤ) (h1 :0 < b) (h2 : b ∣ a) : a / b ≤ c ↔ a ≤  b * c := by
```
[the remark this answers is not in the document]
Comment (miguelmarco) [reply Mathlib/Data/Int/Order/Lemmas.lean]: Done

**Comment by miguelmarco** [comment]
Since they might be useful too, I added the corresponding versions with negative denominators.

File: Mathlib/Data/Int/Order/Lemmas.lean [hunk 3]
```diff
@@ -31,4 +31,100 @@ theorem natAbs_le_iff_mul_self_le {a b : ℤ} : a.natAbs ≤ b.natAbs ↔ a * a
   rw [← abs_le_iff_mul_self_le, abs_eq_natAbs, abs_eq_natAbs]
   exact Int.ofNat_le.symm
 
+theorem div_le_iff_of_dvd_of_pos (a b c : ℤ) (h1 : 0 < b) (h2 : b ∣ a) : a / b ≤ c ↔ a ≤ b * c := by
```
Comment (YaelDillies) [inline Mathlib/Data/Int/Order/Lemmas.lean:34]: Could you please perform the same changes as on your other PR about `Nat`? Eg here this should become
```suggestion
theorem div_le_iff_of_dvd_of_pos {a b c : ℤ} (hb : 0 < b) (hba : b ∣ a) : a / b ≤ c ↔ a ≤ b * c := by
```
but the other lemmas need changing too

Comment (miguelmarco) [reply Mathlib/Data/Int/Order/Lemmas.lean]: Done.

Comment (YaelDillies) [reply Mathlib/Data/Int/Order/Lemmas.lean]: Can you also fix the variable implicitness? Thanks!

Comment (miguelmarco) [reply Mathlib/Data/Int/Order/Lemmas.lean]: I followed the same approach as in #23100: the variables that appear in hypothesis are implicit. Those that don't, are explicit after the hypothesis.

File: Mathlib/Data/Int/Order/Lemmas.lean [hunk 4]
```diff
@@ -31,4 +31,108 @@ theorem natAbs_le_iff_mul_self_le {a b : ℤ} : a.natAbs ≤ b.natAbs ↔ a * a
   rw [← abs_le_iff_mul_self_le, abs_eq_natAbs, abs_eq_natAbs]
   exact Int.ofNat_le.symm
 
+theorem div_le_iff_of_dvd_of_pos {a b : ℤ} (hb : 0 < b) (hba : b ∣ a) (c : ℤ) :
+    a / b ≤ c ↔ a ≤ b * c := by
```
[the remark this answers is not in the document]
Comment (miguelmarco) [reply Mathlib/Data/Int/Order/Lemmas.lean:35]: Ok, 
what is the rationale for using different methods in equalities and iffs?

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Data/Int/Order/Lemmas.lean]: Iffs are often used as one way implications using `Iff.mp` and `Iff.mpr`. Equalities cannot be turned into one way "implications" or whatever that would be (well actually they can, but it's extremely rare to do so)

File: Mathlib/Data/Int/Order/Lemmas.lean [hunk 5]
```diff
@@ -31,4 +31,108 @@ theorem natAbs_le_iff_mul_self_le {a b : ℤ} : a.natAbs ≤ b.natAbs ↔ a * a
...
+  obtain ⟨_, hx⟩ := hcb
+  simp only [hx, ne_eq, hc, _root_.ne_of_lt, not_false_eq_true, mul_div_cancel_left₀,
+    mul_lt_mul_left_of_neg hc]
+
+lemma div_le_div_iff_of_dvd_of_pos_of_pos {a b c d : ℤ} (hb : 0 < b) (hd : 0 < d) (hba : b ∣ a)
+    (hdc : d ∣ c) : a / b ≤  c / d ↔ d * a ≤ c * b := by
+  obtain ⟨_, hx⟩ := hba
+  obtain ⟨y, hy⟩ := hdc
+  rw [hx, hy, mul_ediv_cancel_left _ (Int.ne_of_gt hd), mul_ediv_cancel_left _ (Int.ne_of_gt hb),
+    mul_assoc,mul_comm y b,_root_.mul_le_mul_left hd,_root_.mul_le_mul_left hb]
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Data/Int/Order/Lemmas.lean:87]: Don't forget this comment!

File: Mathlib/Data/Int/Order/Lemmas.lean [hunk 6]
```diff
@@ -31,4 +31,108 @@ theorem natAbs_le_iff_mul_self_le {a b : ℤ} : a.natAbs ≤ b.natAbs ↔ a * a
...
+  obtain ⟨y, hy⟩ := hdc
+  rw [hx, hy, mul_ediv_cancel_left _ (Int.ne_of_lt hb), mul_ediv_cancel_left _ (Int.ne_of_gt hd),
+    mul_assoc, mul_le_mul_iff_of_pos_left hd, mul_comm y b,mul_le_mul_left_of_neg hb]
+
+lemma div_le_div_iff_of_dvd_of_neg_of_neg {a b c d : ℤ} (hb : b < 0) (hd : d < 0) (hba : b ∣ a)
+    (hdc : d ∣ c) : a / b ≤ c / d ↔ d * a ≤ c * b := by
+  obtain ⟨_, hx⟩ := hba
+  obtain ⟨y, hy⟩ := hdc
+  rw [hx, hy, mul_ediv_cancel_left _ (Int.ne_of_lt hd), mul_ediv_cancel_left _ (Int.ne_of_lt hb),
+    mul_assoc,mul_comm y b,mul_le_mul_left_of_neg hd,mul_le_mul_left_of_neg hb]
```
Comment (YaelDillies) [inline Mathlib/Data/Int/Order/Lemmas.lean:108]:
```suggestion
    mul_assoc, mul_comm y b, mul_le_mul_left_of_neg hd, mul_le_mul_left_of_neg hb]
```
and in other places too

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Review by YaelDillies — COMMENTED** [review]
I just found a bunch more golfs. Since I've already asked you enough things, I performed it myself

**Comment by miguelmarco** [comment]
Great!

One question: shouldn't the `simp` proofs be in the form of `simp only`? I thought it was more efficient, and less prone to causing problems in case of a future change the modifies the set of simp lemmas.

**Comment by YaelDillies** [comment]
Quite the opposite! Referencing lemmas explicitly in a simp call means that the simp call is more likely to break when the lemmas change statement or are renamed. [This is explicitly mentioned in the style guide](https://leanprover-community.github.io/contribute/style#squeezing-simp-calls).

File: Mathlib/Data/Int/Init.lean [hunk 7]
```diff
@@ -292,6 +292,58 @@ lemma strongRec_of_lt (hn : n < m) : m.strongRec lt ge n = lt n hn := dif_pos _
 
 end strongRec
 
+/-! ### neg -/
+
+-- We want to use this lemma earlier than the lemmas simp can prove them with
+
+@[simp, nolint simpNF] protected lemma neg_le_neg_iff : -a ≤ -b ↔ b ≤ a where
+  mp := Int.le_of_neg_le_neg
+  mpr := Int.neg_le_neg
```
Comment (kim-em) [inline Mathlib/Data/Int/Init.lean:301]: This is in Lean already. Can we wait to merge this PR for a day or two, so we can move to the `v4.19.0-rc1` toolchain, and then clean up this PR, rather than me having to clean it up afterwards? :-)

Comment (YaelDillies) [reply Mathlib/Data/Int/Init.lean:301]: Sure, no problem with me

Comment (j-loreaux) [reply Mathlib/Data/Int/Init.lean:301]: It is.

**Comment by j-loreaux** [comment]
Please merge master and fix the resulting errors.

**Comment by miguelmarco** [comment]
Rebased over master, and removed already existing lemmas.

**Comment by j-loreaux** [comment]
This is not the diff you want (30k lines). Do you want to try again with git?

**Comment by miguelmarco** [comment]
> This is not the diff you want (30k lines). Do you want to try again with git?

I did fetch the latest master, rebase this branch on top of it, and then just delete ten lines.

Which should be the right workflow?

**Comment by YaelDillies** [comment]
Can you tell us what commands you ran, precisely?

Here is what I would do here:
1. `git fetch`
2. `git rebase -i origin/master`
3. In the file popping up, remove all lines until the one saying `pick 34b8124 Add rewriting lemmas`
4. Close the file, which means the rebase gets actually performed
5. `git push -f`

I think what happened here is that you rebased your *local* branch on master, then you merged it back into the *remote* branch (ie you replaced step 5 with "Sync local and remote branches with a merge"). I think so because of the presence of https://github.com/leanprover-community/mathlib4/pull/23275/commits/39498be1887d98b24e1cc260e0fd4b9729bc1e70 in the history of this PR.

**Comment by miguelmarco** [comment]
I see, I did not do an interactive rebase.

Will try to roll back and do as @YaelDillies  suggests.

**Comment by miguelmarco** [comment]
I think i got it right now. Yet, I don't fully understand the difference between what I did originally (avoid the conflict when pushing by merging) and this approach (which, IIUC, is to force the push without merging).

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Data/Int/Init.lean [hunk 8]
```diff
@@ -282,6 +282,46 @@ lemma strongRec_of_lt (hn : n < m) : m.strongRec lt ge n = lt n hn := dif_pos _
 
 end strongRec
 
+/-! ### mul -/
+
+-- We want to use these lemmas earlier than the lemmas simp can prove them with
+
+@[simp, nolint simpNF] protected lemma mul_le_mul_left (ha : 0 < a) : a * b ≤ a * c ↔ b ≤ c where
```
Comment (j-loreaux) [inline Mathlib/Data/Int/Init.lean:289]: @YaelDillies I think these should probably be marked `simp low` instead of `nolint simpNF`. Do you agree?

File: Mathlib/Data/Int/Init.lean [hunk 9]
```diff
@@ -282,6 +282,46 @@ lemma strongRec_of_lt (hn : n < m) : m.strongRec lt ge n = lt n hn := dif_pos _
 
 end strongRec
 
+/-! ### mul -/
+
+-- We want to use these lemmas earlier than the lemmas simp can prove them with
```
Comment (jcommelin) [inline Mathlib/Data/Int/Init.lean:287]: Question for everyone: Should we consider adding these lemmas to a dedicated simp-set instead of `nolint simpNF`ing them?

File: Mathlib/Data/Int/Init.lean (hunk 8 above)
Comment (YaelDillies) [reply Mathlib/Data/Int/Init.lean:289]: Do you mean `simp high`? Otherwise tjey wouldn't be in simp normal form.

And, yes, sure, tweaking the priority is another option

File: Mathlib/Data/Int/Init.lean (hunk 9 above)
Comment (YaelDillies) [reply Mathlib/Data/Int/Init.lean:287]: I think they should be default simp lemmas

Comment (jcommelin) [reply Mathlib/Data/Int/Init.lean:287]: Ok, let's go with `simp high` in that case.

**Review by jcommelin — COMMENTED** [review]
bors d+
